US06147255
(b) 4-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-2-thiophenecarboxaldehyde
In a similar manner to Example 3(b), by reaction of 4.3 g (18.7 mmol) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylboronic acid with 2.36 g (12.3 mmol) of 4-bromo-2-thiophenecarboxaldehyde, 2.3 g (63%) of the expected aldehyde derivative are obtained, with a melting point of 84-5° C.

reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylboronic acid | 18.7 mmol, 4.3 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)B(O)O)C | C14H21BO2
reactant | 4-bromo-2-thiophenecarboxaldehyde | 12.3 mmol, 2.36 g | BrC=1C=C(SC1)C=O | C5H3BrOS
product | 4-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-2-thiophenecarboxaldehyde | CC1(C=2C=CC(=CC2C(CC1)(C)C)C=1C=C(SC1)C=O)C | C19H22OS
